US09079888B2
Step (ii): Preparation of 2-[4-(1-Cyclobutyl piperidin-4-yloxy)phenylamino]-1-(morpholin-4-yl)ethanone hydrochloride
To a stirred solution of 2-[4-(1-Cyclobutyl piperidin-4-yloxy)phenylamino]-1-(morpholin-4-yl)ethanone (0.3 g, 0.804 mmoles) in diethyl ether (20 mL) was treated with 15% methanolic hydrochloride (0.23 mL, 0.965 mmoles). The reaction mass was stirred further for 1 hour at room temperature. The solvent was decanted, the resulting solids were washed with ether (2×10 mL) and dried under reduced pressure to obtain title compound 0.28 g (Yield: 85%).

reactant | 2-[4-(1-Cyclobutyl piperidin-4-yloxy)phenylamino]-1-(morpholin-4-yl)ethanone | 0.804 mmoles, 0.3 g | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)NCC(=O)N1CCOCC1 | C21H31N3O3
reactant | hydrochloride | 0.965 mmoles, 0.23 mL | Cl | ClH
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 2-[4-(1-Cyclobutyl piperidin-4-yloxy)phenylamino]-1-(morpholin-4-yl)ethanone hydrochloride | 0.28 g, Yield: 85% | Cl.C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)NCC(=O)N1CCOCC1 | InChI=1S/C21H31N3O3.ClH/c25-21(24-12-14-26-15-13-24)16-22-17-4-6-19(7-5-17)27-20-8-10-23(11-9-20)18-2-1-3-18;/h4-7,18,20,22H,1-3,8-16H2;1H
